US06667316B1
A stirred mixture of 4-(aminomethyl)-2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]isoindoline-1,3-dione (0.92 g, 2.13 mmol) and acetic anhydride (10 mL) was heated at reflux for 40 min and then cooled to room temperature. Excess acetic anhydride was removed in vacuo. The residue was dissolved in ethyl acetate (50 mL) and washed with 2N hydrogen chloride (20 mL), water (20 mL), brine (20 mL), and dried over magnesium sulfate. The solvent was removed in vacuo and the residue was purified by chromatography (silica gel, methylene chloride:ethyl acetate 75:25) to give N-({2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}methyl)acetamide (0.56 g, 55%) as a white solid: mp 84-86° C.; 1H NMR (CDCl3) δ7.74-7.62 (m, 3H), 7.13-7.09 (m, 2H), 6.85-6.82 (m, 1H), 6.74-6.69 (m, 1H), 5.92-5.86 (dd, J=4.5, 10.1 Hz, 1H), 4.73 (d, J=6.3 Hz, 2H), 4.59-4.49 (dd, J=10.5, 14.2 Hz, 1H), 4.12 (q, J=6.8 Hz, 2H), 3.84 (s, 3H), 3.81-3.74 (m, 1H), 2.84 (s, 3H), 1.96 (s, 3H), 1.46 (t, J=6.9 Hz, 3H); 13C NMR (CDCl3) δ170.15, 168.58, 167.77, 149.64, 148.54, 138.05, 135.38, 134.39, 132.07, 129.32, 128.21, 122.73, 120.40, 112.41, 111.37, 64.45, 55.88, 54.61, 48.65, 41.55, 39.42, 23.08, 14.62; Anal. Calcd. for C23H26N2O7S: C, 58.22; H, 5.52; N, 5.90; S, 6.76. Found : C, 57.87; H, 5.52; N, 5.65; S, 6.66.

reactant | 4-(aminomethyl)-2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]isoindoline-1,3-dione | 2.13 mmol, 0.92 g | NCC1=C2C(N(C(C2=CC=C1)=O)C(CS(=O)(=O)C)C1=CC(=C(C=C1)OC)OCC)=O | C21H24N2O6S
reactant | acetic anhydride | 10 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-({2-[1-(3-ethoxy-4-methoxyphenyl)-2-(methylsulfonyl)ethyl]-1,3-dioxoisoindolin-4-yl}methyl)acetamide | 0.56 g, 55% | C(C)OC=1C=C(C=CC1OC)C(CS(=O)(=O)C)N1C(C2=CC=CC(=C2C1=O)CNC(C)=O)=O | C23H26N2O7S
